US07183287B2
Preparation of 3-[5-bromo-4-[(2,4-difluorobenzyl)oxy]-6-oxopyrimidin-1(6H)-yl]-N-[(2S)-2,3-dihydroxypropyl]-4-methylbenzamide
The title compound was prepared by a procedure similar to the one described for 3-[5-bromo-4-[(2,4-difluorobenzyl)oxy]-6-oxopyrimidin-1(6H)-yl]-4-methyl-N-{1-[(methylamino)carbonyl]methyl}benzamide using (S)-(−)-3-amino-1,2-propanediol (0.162 g 2.5 mmol) as the amine and without the addition of a second equivalent of N-methylmorpholine. After reverse phase HPLC purification, the organic extracts were concentrated under reduced pressure and dried in vacuo to afford the desired product (404.3 mg, 43%) as beige solid. 1H-NMR (CD3OD, 400 MHz) δ 8.31 (s, 1H), 7.92 (dd, 1H, J=2 Hz), 7.76 (d, 1H, J=1.6 Hz), 7.62 (m, 1H), 7.55 (d, 1H, J=8 Hz), 7.01 (m, 2H), 5.59 (q, 2H, J=12.4 Hz), 3.80 (m, 1H), 3.53 (m, 3H), 3.39 (m, 1H), 2.19 (s, 3H); ES-HRMS m/z 524.0630 (M+H C22H21BrF2N3O5 requires 524.0627).

reactant | 3-[5-bromo-4-[(2,4-difluorobenzyl)oxy]-6-oxopyrimidin-1(6H)-yl]-4-methyl-N-{1-[(methylamino)carbonyl]methyl}benzamide | BrC1=C(N=CN(C1=O)C=1C=C(C(=O)NCC(=O)NC)C=CC1C)OCC1=C(C=C(C=C1)F)F | C22H19BrF2N4O4
reactant | (S)-(−)-3-amino-1,2-propanediol | 2.5 mmol, 0.162 g | NC[C@@H](CO)O | C3H9NO2
reactant | N-methylmorpholine | CN1CCOCC1 | C5H11NO
product | 3-[5-bromo-4-[(2,4-difluorobenzyl)oxy]-6-oxopyrimidin-1(6H)-yl]-N-[(2S)-2,3-dihydroxypropyl]-4-methylbenzamide | 404.3 mg, 43% | BrC1=C(N=CN(C1=O)C=1C=C(C(=O)NC[C@@H](CO)O)C=CC1C)OCC1=C(C=C(C=C1)F)F | C22H20BrF2N3O5
